US08871792B2
(R)-3-[N′-(5-Acetyl-2H-pyrazole-3-carbonyl)-N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)hydrazino]-2-hydroxypropionic Acid 2-Morpholin-4-ylethyl Ester
(R)-3-[N′-(5-Acetyl-2H-pyrazole-3-carbonyl)-N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)hydrazino]-2-hydr oxy-propionic acid (41.0 mg, 86 μmol), HOBt (70.0 mg, 518 μmol) and EDC (92 μL, 520 μmol) were combined in DCM (0.7 mL, 10 mmol). The resulting solution was stirred for 10 minutes. 4-Morpholineethanol (84 μL, 691 μmol) was added, and the mixture was stirred at room temperature until the reaction was complete (≈2 hours). The mixture was concentrated by rotary evaporation and purified (reverse phase column) to yield the title compound (7.5 mg, purity 98%) as a TFA salt. MS m/z [M+H]+calc'd for C28H31ClFN5O6, 588.19. found 588.1.

reactant | (R)-3-[N′-(5-Acetyl-2H-pyrazole-3-carbonyl)-N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)hydrazino]-2-hydr oxy-propionic acid | 86 μmol, 41.0 mg | C(C)(=O)C=1C=C(NN1)C(=O)NN(CC1=CC=C(C=C1)C1=C(C=CC(=C1)Cl)F)C[C@H](C(=O)O)O | C22H20ClFN4O5
reactant | HOBt | 518 μmol, 70.0 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 520 μmol, 92 μL
reactant | DCM | 10 mmol, 0.7 mL | C(Cl)Cl | CH2Cl2
reactant | 4-Morpholineethanol | 691 μmol, 84 μL | N1(CCOCC1)CCO | C6H13NO2
product | (R)-3-[N′-(5-Acetyl-2H-pyrazole-3-carbonyl)-N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)hydrazino]-2-hydroxypropionic Acid 2-Morpholin-4-ylethyl Ester | 7.5 mg | N1(CCOCC1)CCOC([C@@H](CN(NC(=O)C=1NN=C(C1)C(C)=O)CC1=CC=C(C=C1)C1=C(C=CC(=C1)Cl)F)O)=O | C28H31ClFN5O6
